US07737166B2
2-Amino-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-172)
4-Amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-41) (1.66 g, 6.86 mmol) and di(imidazol-1-yl)methanimine (2.821 g) were suspended in tetrahydrofuran (33 ml), and stirred under reflux under nitrogen atmosphere for 120 hours. After cooling to room temperature, the solvent was evaporated away under reduced pressure. The residue was fractionated with 10% methanol-containing chloroform and water. The organic layer was separated, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, and the solvent was evaporated away under reduced pressure. The residue was recrystallized form methanol to obtain the entitled compound (1.60 g, 87%) as a pale brown solid.

reactant | 4-Amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 6.86 mmol, 1.66 g | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
reactant | di(imidazol-1-yl)methanimine | 2.821 g | N1(C=NC=C1)C(=N)N1C=NC=C1 | C7H7N5
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | 2-Amino-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 1.60 g, 87% | NC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H10FN3O
